US05849743
f) 7-Amino-1-(ethoxycarbonylmethyl)quinoxaline-2,3(1H,4H)-dione
84.3 g (0.26 mol) of 6-chloro-1-(ethoxycarbonylmethyl)-7-nitroquinoxaline-2,3(1H,4H)-dione were suspended in 1.5 l of isopropanol and successively 194.2 g (3.1 mol) of ammonium formate dissolved in 500 ml of water, and 8.5 g of palladium/carbon (10%) were added. The mixture was then heated at 75° C. for 4 h and, after cooling, filtered, and the filter cake was extracted three times with 800 ml of dimethylformamide. The combined dimethylformamide phases were concentrated under reduced pressure, and the residue was washed with water. 53.2 g (79%) of the product were obtained.

reactant | 6-chloro-1-(ethoxycarbonylmethyl)-7-nitroquinoxaline-2,3(1H,4H)-dione | 0.26 mol, 84.3 g | ClC=1C=C2NC(C(N(C2=CC1[N+](=O)[O-])CC(=O)OCC)=O)=O | C12H10ClN3O6
reactant | ammonium formate | 3.1 mol, 194.2 g | C(=O)[O-].[NH4+]
solvent | isopropanol | 1.5 l | C(C)(C)O | C3H8O
solvent | water | 500 ml | O | H2O
catalyst | palladium/carbon | 8.5 g | [Pd] | Pd
product | 7-Amino-1-(ethoxycarbonylmethyl)quinoxaline-2,3(1H,4H)-dione | 53.2 g, 79% | NC1=CC=C2NC(C(N(C2=C1)CC(=O)OCC)=O)=O | C12H13N3O4
